Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo F with pancreatic stage IIA (___) being treated with 
gemcitabine and abraxane (C3D20) who presents from ___ 
clinic with fevers and rigors.

At home, patient reports that she has been fatigued for last 
week. She developed dry cough 2 days ago. She developed 
low-grade fever, chills, and rigors last night. She reports 
associated diarrhea that is intermittent. She denies black or 
bloody stools. She denies associatied chest pain outside of 
coughing, shortness of breath, abdominal pain, nausea, and 
vomiting. She does reports persistent dysuria and frequency. She 
denies headache, weakness, and numbness. Otherwise she has no 
complaints.

In clinic, the patient was noted to have fever to a Tmax of 103. 
Labs were notable for WBC 5.8 -> 9.4. CXR with no acute process. 
Patient was given a dose of ertapenem given recent urine culture 
with ESBL E. coli. Patient was admitted to OMED for further 
evaluation and management.

On the floor, initial vital signs were 98.7, 84, 116/64, 18, 97% 
RA. Patient reports that she is feeling well with the exception 
of persistent fatigue.

 
Past Medical History:
Pancreatitis ___
HTN
hyperthyroidism, s/p treatment, now euthyroid

 
Social History:
___
Family History:
Her mother had colon cancer at ___ but she declined therapy. 
Her father was killed by Pol Pot at a young age. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 98.7, 84, 116/64, 18, 97% RA
GENERAL: Well-appearing female in NAD
HEENT: NC/AT, EOMI, PERRL, mucous membranes dry
CARDIAC: RRR, nl S1/S2, no MRG
LUNG: CTAB, no wheezes/rales/rhonchi
ABD: Soft, mild suprapubic tenderness without rebound/guarding, 
normoactive bowel sounds
EXT: No lower extermity edema
NEURO: AAOx3, CN II-XII intact
SKIN: Warm and dry, no concerning lesions

DISCHARGE PHYSICAL EXAM:
VS: Tm 98.7, Tc 98, BP 110/62 HR 79 R 18 Spo2 100% on RA
GENERAL: Well-appearing female in NAD
HEENT: NC/AT, EOMI, PERRL, mucous membranes dry
CARDIAC: RRR, nl S1/S2, no MRG
LUNG: CTAB, no wheezes/rales/rhonchi
ABD: Soft, mild suprapubic tenderness without rebound/guarding, 
normoactive bowel sounds
EXT: No lower extermity edema
NEURO: AAOx3, CN II-XII intact
SKIN: Warm and dry, no concerning lesions

 
Pertinent Results:
ADMISSION LABS:
___ 10:45AM BLOOD WBC-9.4# RBC-4.14* Hgb-10.8* Hct-33.0* 
MCV-80* MCH-26.2* MCHC-32.9 RDW-20.2* Plt ___
___ 05:56AM BLOOD ___ PTT-32.2 ___
___ 10:45AM BLOOD ___ ___
___ 05:56AM BLOOD Glucose-102* UreaN-9 Creat-0.5 Na-138 
K-3.6 Cl-106 HCO3-25 AnGap-11
___ 05:56AM BLOOD Calcium-8.3* Phos-3.7 Mg-2.0
___ 05:56AM BLOOD TSH-1.1

INTERVAL IMAGING, LABS:
___ CXR
In comparison with the study of ___, there are 
slightly lower lung volumes. The heart is normal in size and 
there is no evidence of vascular congestion, pleural effusion, 
or acute focal pneumonia. Left subclavian Port-A-Cath extends to 
the right atrium. 

DISCHARGE LABS:
___ 05:32AM BLOOD WBC-6.0 RBC-3.33* Hgb-8.5* Hct-26.2* 
MCV-79* MCH-25.7* MCHC-32.6 RDW-19.9* Plt ___
___ 05:32AM BLOOD Glucose-83 UreaN-6 Creat-0.5 Na-142 K-3.6 
Cl-107 HCO3-27 AnGap-12
___ 05:56AM BLOOD ALT-18 AST-21 LD(LDH)-164 AlkPhos-44 
TotBili-0.3
___ 05:32AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.___ yo F with pancreatic stage IIA (T2N0M0) being treated with 
gemcitabine and abraxane (C3D20) who presents from ___ 
clinic with fevers and rigors.

ACUTE ISSUES:

# Fever: Unclear etiology. Definite concern for a urinary source 
in the setting of recent urine culture with ESBL E. coli, as 
well as dysuria with suprapubic tenderness; however, urinalysis 
is completely unremarkable. Urine culture still pending. CXR 
clear so little concern for pneumonia. Fever and chills raises 
concern for influenza, but PCR negative. Differential diagnosis 
for fever in this patient also includes cholangitis given her 
known biliary strictures s/p stenting although clinical picture 
does not quite fit with this, given lack of abdominal pain and 
normal LFTs. Treated with ertapenem in the clinic with one dose. 
Received meropenem in house for 2 days. Discharged to continue 
ertapenem at home for 5 more days. 

# Pancreatic cancer: Stage IIA. Being treated with neoadjuvant 
gemcitabine and abraxane, now C3D21. Patient has been tolerating 
treatment well. Further plans per outpatient oncologist.

CHRONIC ISSUES:
# Type 2 diabetes: Continue home Lantus and Humalog sliding 
scale.
# GERD: Continue home omeprazole and calcium carbonate.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO BID 
2. Multivitamins 1 TAB PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Glargine 15 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Medications:
1. Calcium Carbonate 500 mg PO BID 
2. Multivitamins 1 TAB PO DAILY 
3. Omeprazole 40 mg PO DAILY 
4. Ertapenem Sodium 1 g IV ONCE Duration: 1 Dose 
RX *ertapenem [Invanz] 1 gram 1 g IV DAILY Disp #*5 Vial 
Refills:*0
5. Glargine 15 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Primary diagnosis: Urinary tract infection

Secondary diagnoses:
- Pancreatic adenocarcinoma
- Type 2 diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ was a pleasure taking care of you while you were a patient at 
___. You came to us with high 
fevers and chills. This was most likely due to a urinary 
infection. You were treated with antibiotics which resulted in 
improvement in your symptoms. You are being discharged on IV 
antibiotics which you will continue for 5 days.
 
Followup Instructions:
___